US08563575B2
To a solution of pyridine-2,3-diamine (5 g) in EtOH (150 mL) was added carbon disulfide (23 mL) at room temperature. The mixture was stirred at 40° C. under Ar for 10 h. The mixture was cooled to room temperature. The resulting white solid was filtered and washed with ether to give 1H-imidazo[4,5-b]pyridine-2-thiol (5.61 g).

reactant | pyridine-2,3-diamine | 5 g | N1=C(C(=CC=C1)N)N | C5H7N3
reactant | carbon disulfide | 23 mL | C(=S)=S | CS2
solvent | EtOH | 150 mL | CCO | C2H6O
product | 1H-imidazo[4,5-b]pyridine-2-thiol | 5.61 g | N1C(=NC2=NC=CC=C21)S | C6H5N3S
